US05015640
starting from 3-pentynyl 5,7-dihydro-6H-dibenz[c,e]-azepine-6-carboximidate and benzoyl chloride, there is obtained 3-pentynyl N-(benzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a syrup, mass spectrum m/e: M+ 408 (3), 407 (4), 341 (8), 194 (100), 105 (57);

reactant | 3-pentynyl 5,7-dihydro-6H-dibenz[c,e]-azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCCC#CC)=N | C20H20N2O
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 3-pentynyl N-(benzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C(C1=CC=CC=C1)(=O)N=C(OCCC#CC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C27H24N2O2
